US07425560B2
d) 3-(2-Tetrahydrofuryl-methyl)-2-thioxanthine
5,6-Diamino-1-(2-tetrahydrofuryl-methyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one (0.25 g, 1.0 mmol) was dissolved in formic acid (1 mL) and heated at 70° C. for 0.5 h. After a few minutes a pink solid formed in the solution. The excess of formic acid was evaporated off and the resulting solid dissolved in 10% sodium hydroxide solution (4 mL). This solution was heated at 70° C. for 40 minutes, then neutralized with 2M hydrochloric acid. The resulting precipitate was collected by filtration, washed with water and dried, giving pure product (0.23 g, 87%).

reactant | 5,6-Diamino-1-(2-tetrahydrofuryl-methyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 1.0 mmol, 0.25 g | NC=1C(NC(N(C1N)CC1OCCC1)=S)=O | C9H14N4O2S
reactant | formic acid | 1 mL | C(=O)O | CH2O2
product | 3-(2-Tetrahydrofuryl-methyl)-2-thioxanthine | 0.23 g, 87% | O1C(CCC1)CN1C(NC(C=2NC=NC12)=O)=S | C10H12N4O2S
